US09260452B2
A solution of ammonium cerium(IV) (3.3 g, 6.06 mmol) in water (10 mL) was added to (1S,4R,6S)-6-methoxy-2-(4-methoxybenzyl)-2-azabicyclo[2.2.1]heptan-3-one (527 mg, 2.02 mmol) in CH3CN (40 mL). The reaction mixture was stirred at ambient temperature for 2 h and extracted by EtOAc (60 mL). The organic extract was washed with water and brine, dried over Na2SO4, and evaporated to give the crude (1S,4R,6S)-6-methoxy-2-azabicyclo[2.2.1]heptan-3-one. MS (ESI+): m/z 142 (M+H+).

reactant | ammonium cerium(IV) | 6.06 mmol, 3.3 g | [Ce+4].[NH4+]
reactant | (1S,4R,6S)-6-methoxy-2-(4-methoxybenzyl)-2-azabicyclo[2.2.1]heptan-3-one | 2.02 mmol, 527 mg | CO[C@H]1C[C@@H]2C(N([C@H]1C2)CC2=CC=C(C=C2)OC)=O | C15H19NO3
solvent | water | 10 mL | O | H2O
solvent | CH3CN | 40 mL | CC#N | C2H3N
product | (1S,4R,6S)-6-methoxy-2-azabicyclo[2.2.1]heptan-3-one | CO[C@H]1C[C@@H]2C(N[C@H]1C2)=O | C7H11NO2
